US06093732
Anthranilonitrile (8.23 g) and diethyl ethoxymethylenemalonate (14 mL) are heated at 130° C. for 1 hour. The reaction is cooled to 60° C., poured into 50 mL hexanes, and the resulting enamine intermediate filtered and dried. The enamine is added to 60 mL diphenyl ether and heated to 250° C. for 1 hour with removal of ethanol by a Dean-Stark trap. The reaction is cooled to room temperature and the orange-brown solid filtered, washed thoroughly with hexanes, and dried to give ethyl 8-cyano-4-hydroxyquinoline-3-carboxylate (5.69 g). A mixture of this ester (1.00 g) is added to 60 mL 1:1 THF:MeOH. Lithium hydroxide (1.0 M solution, 16 mL) is added dropwise and the reaction mixture heated at 40° C. overnight. The reaction is poured into 20 mL acetic acid. The volume is reduced by half on the rotary evaporator after which a solid precipitated. The solid is filtered, washed with water, and dried. An additional crop of the desired acid is obtained by further reducing the volume of the filtrate. The crops are combined to yield 0.72 g of 8-cyano-4-hydroxyquinoline-3-carboxylic acid. The acid (0.24 g) and carbonyldiimidazole (0.20 g) are added to 10 mL freshly distilled tetrahydrofuran and heated at reflux overnight. The reaction is cooled to room temperature and 4-chlorobenzylamine (0.13 mL) is added dropwise. The reaction is stirred at room temperature for 24 hours, then at reflux for 6 hours. The reaction is cooled and a white solid filtered and dried to give the desired product (0.17 g).

reactant | Anthranilonitrile | 8.23 g | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | diethyl ethoxymethylenemalonate | 14 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | ethyl 8-cyano-4-hydroxyquinoline-3-carboxylate | 5.69 g | C(#N)C=1C=CC=C2C(=C(C=NC12)C(=O)OCC)O | C13H10N2O3
